### PR TITLE
[Merged by Bors] - feat: Second-derivative test from calculus

### PR DESCRIPTION
**Pull request by bjoernkjoshanssen**
We prove the Second-Derivative test from calculus using the First-Derivative test.
Source: [Wikipedia](https://en.wikipedia.org/wiki/Derivative_test#Proof_of_the_second-derivative_test).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by bjoernkjoshanssen** [comment]
This is only a first draft. Still need to reduce the size and optimize the proofs.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 1]
```diff
@@ -0,0 +1,142 @@
...
+  insert_Ioo ⟨by linarith,by linarith⟩
+
+
+section SecondDeriv
+
+variable {f : ℝ → ℝ} {x₀ : ℝ}
+
+/-- If the slope from a critical point `x₀` to `b > x₀` is positive then so is the derivative
+ at `b`. -/
+lemma slopeSimpPos {b : ℝ} (hb : x₀ < b) (hbf : b ∈ slope (deriv f) x₀ ⁻¹' Ioi 0)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:39]: I think this is the same as
```suggestion
lemma slopeSimpPos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope (deriv f) x₀ b)
```

Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean]: Thanks, yes --- really not sure why I wrote it like that!

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 2]
```diff
@@ -0,0 +1,142 @@
...
+  insert_Ioo ⟨by linarith,by linarith⟩
+
+
+section SecondDeriv
+
+variable {f : ℝ → ℝ} {x₀ : ℝ}
+
+/-- If the slope from a critical point `x₀` to `b > x₀` is positive then so is the derivative
+ at `b`. -/
+lemma slopeSimpPos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope (deriv f) x₀ b)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:39]:
```suggestion
lemma deriv_pos_of_lt_of_slope_pos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope (deriv f) x₀ b)
```
or similar. I think presumably every lemma in this PR has a dual for when the slope is negative, so at least you should ensure you leave room for both names.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 3]
```diff
@@ -0,0 +1,142 @@
...
+  contrapose this
+  exact not_lt.mpr <| div_nonpos_of_nonneg_of_nonpos (not_lt.mp this) (by linarith)
+
+/-- If the derivative is negative (positive) to the left (right) then the
+function is differentiable in a punctured neighborhood. -/
+theorem eventually_differentiable_of_deriv_nonzero {ε : ℝ}
+    (hε : ε > 0)
+    (hε₀ : ∀ b ∈ Ioo (x₀ - ε) x₀, deriv f b < 0)
+    (hε₁ : ∀ b ∈ Ioo x₀ (x₀ + ε), 0 < deriv f b) :
+    ∀ᶠ x in 𝓝[≠] x₀, DifferentiableAt ℝ f x :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:62]: Is this `DifferentiableWithinAt`?

Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:62]: Well, I just stated it in a way that seemed useful in order to prove the 2nd derivative test below. But now that you mention it, this lemma is really all about `ne` rather than `lt` and `gt` so I have restated the lemma in a new version.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 2 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:39]: Thanks, I have tried to improve the names in that vein now.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+  contrapose this
+  exact not_lt.mpr <| div_nonpos_of_nonneg_of_nonpos (not_lt.mp this) (by linarith)
+
+/-- If the derivative is nonzero in a (specific) punctured neighborhood then the
+function is differentiable in a punctured neighborhood. -/
+theorem eventually_differentiable_of_deriv_nonzero {ε : ℝ}
+    (hε : ε > 0)
+    (hε₀ : ∀ b ∈ Ioo (x₀ - ε) x₀, deriv f b ≠ 0)
+    (hε₁ : ∀ b ∈ Ioo x₀ (x₀ + ε), deriv f b ≠ 0) :
+    ∀ᶠ x in 𝓝[≠] x₀, DifferentiableAt ℝ f x :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:62]: This lemma doesn't seem necessary to me. I'm betting there is a much shorter proof and you can simply inline it. I'll check later when I'm at a computer.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 5]
```diff
@@ -0,0 +1,141 @@
...
+  exact ⟨u, hu.1.1, fun b hb => deriv_pos_of_lt_of_slope_pos hb.1 (hu.2 hb) hd⟩
+
+/-- If `f''(x) > 0` then `f'` changes sign at `x`.
+This lemma applies to functions like `x^2 + 1[x ≥ 0]` as well as twice differentiable
+functions.
+-/
+lemma deriv_neg_pos_of_deriv_deriv_pos
+    (hf : deriv (deriv f) x₀ > 0) (hd : deriv f x₀ = 0) :
+    ∃ ε > 0, (∀ b ∈ Ioo (x₀-ε) x₀, deriv f b < 0) ∧
+              ∀ b ∈ Ioo x₀ (x₀ + ε), 0 < deriv f b := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:93]: I think this should be phrased as "eventually in a punctured neighborhood, the sign of `deriv f b` matches the sign of `b - x`."

**Review by j-loreaux — COMMENTED** [review]
1. I'll have a detailed look at the proofs later when I have a few minutes.
2. I'm concerned that this is only the single variable version of this result. It seems it would be better to have a more general version, but I'll let someone more familiar with the calculus end of the library comment.

**Comment by j-loreaux** [comment]
Having taken a more thorough look here, I've revised my previous recommendations and made my new suggestions on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Second.20Derivative.20Test/near/489113706).

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 6]
```diff
@@ -0,0 +1,161 @@
...
+
+section SecondDeriv
+
+variable {f : ℝ → ℝ} {x₀ : ℝ}
+
+lemma pos_of_lt_of_slope_pos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope f x₀ b)
+    (hf : f x₀ = 0) : 0 < f b := by
+  unfold slope at hbf
+  rw [hf] at hbf
+  simp_all
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:41]: I would rewrite this lemma as 
```lean
lemma slope_pos_iff {𝕜} [LinearOrderedField 𝕜] {f : 𝕜 → 𝕜} {x₀ b : 𝕜} (hb : x₀ < b) :
    0 < slope f x₀ b ↔ f x₀ < f b := by
  simp [slope, hb]
```

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 7]
```diff
@@ -0,0 +1,161 @@
...
+  have : 0 < f b / (b - x₀) := sub_zero (f b) ▸ hbf
+  contrapose this
+  exact not_lt.mpr <| div_nonpos_of_nonneg_of_nonpos (not_lt.mp this) (by linarith)
+
+/-- If the derivative is nonzero in a (specific) punctured neighborhood then the
+function is differentiable in a punctured neighborhood. -/
+theorem eventually_differentiable_of_deriv_nonzero {ε : ℝ}
+    (hε : ε > 0)
+    (hε₀ : ∀ b ∈ Ioo (x₀ - ε) x₀, deriv f b ≠ 0)
+    (hε₁ : ∀ b ∈ Ioo x₀ (x₀ + ε), deriv f b ≠ 0) :
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:57]: All hypotheses should probably just be replaced by a single `(h : ∀ᶠ b in 𝓝[≠] x₀, deriv f b ≠ 0)`, but then this lemma becomes trivial, since the proof is `h.mono <| fun _ ↦ differentiableAt_of_deriv_ne_zero`, and should probably just be removed.

**Review by fpvandoorn — COMMENTED** [review]
Here are some more comments. I agree with @j-loreaux that `Filter.Eventually` should be used more here (also in the lemmas I didn't comment on).

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 8]
```diff
@@ -0,0 +1,161 @@
...
+  simp_all
+
+lemma neg_of_gt_of_slope_pos {b : ℝ} (hb : b < x₀) (hbf : 0 < slope f x₀ b)
+    (hf : f x₀ = 0) : f b < 0 := by
+  unfold slope at hbf
+  simp_rw [smul_eq_mul, hf] at hbf
+  rw [mul_comm] at hbf
+  have : 0 < f b / (b - x₀) := sub_zero (f b) ▸ hbf
+  contrapose this
+  exact not_lt.mpr <| div_nonpos_of_nonneg_of_nonpos (not_lt.mp this) (by linarith)
```
[the remark this answers is not in the document]
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean]: Thanks @fpvandoorn I was able to make that work. (I've been neglecting @j-loreaux 's helpful comments for a month, but this helps with moving things forward!)

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 7 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean]: Yes, makes sense. New version incoming.

**Comment by fpvandoorn** [comment]
(you can fix the bot's messages by merging master)

**Comment by bjoernkjoshanssen** [comment]
Thanks --- new version ready. @fpvandoorn / @j-loreaux

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 9]
```diff
@@ -0,0 +1,142 @@
...
+lemma pos_of_slope_pos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope f x₀ b)
+    (hf : f x₀ = 0) : 0 < f b := by
+  simp_all [slope, hf]
+
+lemma neg_of_slope_pos {b : ℝ} (hb : b < x₀) (hbf : 0 < slope f x₀ b)
+    (hf : f x₀ = 0) : f b < 0 := by
+  simp_all [slope, hf]
+  exact neg_of_mul_pos_right hbf <| le_of_lt <| inv_lt_zero.mpr <| by linarith
+
+lemma neg_of_slope_neg {b : ℝ} (hb : b < x₀) (hbf : 0 < slope f x₀ b)
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:48]: This currently states the same as the previous lemma. I think you can delete this unless you actually use it.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 10]
```diff
@@ -0,0 +1,142 @@
...
+  rw [slope_comm, slope_pos_iff hb]
+
+lemma pos_of_slope_pos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope f x₀ b)
+    (hf : f x₀ = 0) : 0 < f b := by
+  simp_all [slope, hf]
+
+lemma neg_of_slope_pos {b : ℝ} (hb : b < x₀) (hbf : 0 < slope f x₀ b)
+    (hf : f x₀ = 0) : f b < 0 := by
+  simp_all [slope, hf]
+  exact neg_of_mul_pos_right hbf <| le_of_lt <| inv_lt_zero.mpr <| by linarith
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:46]: Isn't the proof here `rwa [slope_pos_iff_gt, hf] at hbf` (untested)?

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 11]
```diff
@@ -0,0 +1,142 @@
...
+
+lemma slope_pos_iff {𝕜} [LinearOrderedField 𝕜] {f : 𝕜 → 𝕜} {x₀ b : 𝕜} (hb : x₀ < b) :
+    0 < slope f x₀ b ↔ f x₀ < f b := by
+  simp [slope, hb]
+
+lemma slope_pos_iff_gt {𝕜} [LinearOrderedField 𝕜] {f : 𝕜 → 𝕜} {x₀ b : 𝕜} (hb : b < x₀) :
+    0 < slope f x₀ b ↔ f b < f x₀ := by
+  rw [slope_comm, slope_pos_iff hb]
+
+lemma pos_of_slope_pos {b : ℝ} (hb : x₀ < b) (hbf : 0 < slope f x₀ b)
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:39]: Here and below: generalize `ℝ` to `LinearOrderedField`

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 12]
```diff
@@ -0,0 +1,142 @@
...
+-/
+
+open Set Filter Topology SignType
+
+section SecondDeriv
+
+variable {f : ℝ → ℝ} {x₀ : ℝ}
+
+
+lemma slope_pos_iff {𝕜} [LinearOrderedField 𝕜] {f : 𝕜 → 𝕜} {x₀ b : 𝕜} (hb : x₀ < b) :
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:31]: These basic slope lemmas probably deserve to be in a more basic file. Can you find or create a good place for them? (cf. `#min_imports`)

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 13]
```diff
@@ -0,0 +1,142 @@
...
+  have hf₀ : ∀ᶠ (x : ℝ) in (𝓝[<] x₀ ⊔ 𝓝[>] x₀), deriv f x ≠ 0 :=
+    eventually_sup.mpr ⟨hpll.mono fun x hx => (ne_of_gt hx).symm,
+                        hpgg.mono fun x hx => (ne_of_lt hx).symm⟩
+  have hf : ∀ᶠ (x : ℝ) in 𝓝[≠] x₀, deriv f x ≠ 0 := (nhdsLT_sup_nhdsGT x₀) ▸ hf₀
+  exact isLocalMin_of_deriv hc (hf.mono fun x a ↦ differentiableAt_of_deriv_ne_zero a)
+    (hpll.mono fun _ => le_of_lt) (hpgg.mono fun _ => le_of_lt)
+
+/-- The Second-Derivative Test from calculus, maximum version. -/
+theorem isLocalMax_of_deriv_deriv_neg (hf : deriv (deriv f) x₀ < 0) (hd : deriv f x₀ = 0)
+    (hc : ContinuousAt f x₀) : IsLocalMax f x₀ := by
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:116]: Can you prove this from `isLocalMin_of_deriv_deriv_pos` applied to `-f`?

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 14]
```diff
@@ -0,0 +1,142 @@
...
+    show deriv (-f) x₀ > 0
+    rw [h₀]
+    simp only [Left.neg_pos_iff]
+    exact hf) (by show (-f) x₀ = 0; simp_all)
+
+/-- The Second-Derivative Test from calculus, minimum version.
+Applies to functions like `x^2 + 1[x ≥ 0]` as well as twice differentiable
+functions.
+ -/
+theorem isLocalMin_of_deriv_deriv_pos (hf : deriv (deriv f) x₀ > 0) (hd : deriv f x₀ = 0)
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:90]: This proof is still somewhat long, even though you're essentially there.
I think it makes sense to either
- reformulate `eventually_nhdsWithin_sign_eq_of_deriv_pos` so that it is closer to `isLocalMin_of_deriv` (as 2 separate lemmas)
- reformulate `isLocalMin_of_deriv` so that it's closer to `eventually_nhdsWithin_sign_eq_of_deriv_pos` (e.g. 1 assumption involving `sign` instead of the last 3 assumptions).

**Review by fpvandoorn — COMMENTED** [review]
Here are some more comments.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 10 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:46]: Yes, except it seems it must be followed by `exact hb`.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 11 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:39]: OK done (assuming "below" just means the next lemma)

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 10 above)
Comment (fpvandoorn) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:46]: Ok, then `rwa [slope_pos_iff_gt hb, hf] at hbf` :-)

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 12 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:31]: (Sorry for the delay!) The minimal imports are apparently `Algebra.Order.Field.Defs` and `LinearAlgebra.AffineSpace.Slope`. Those two seem to be independent of each other so I'm not sure where else to put `slope_pos_iff` et al.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 13 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:110]: I tried but honestly the proof wasn't going to be any shorter, the way I approached it.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 14 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:125]: I tried another way now, which does make the proofs shorter. But maybe there are now too many lemmas.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 15]
```diff
@@ -0,0 +1,148 @@
...
+lemma pos_of_slope_pos {𝕜} [LinearOrderedField 𝕜] {f : 𝕜 → 𝕜} {x₀ b : 𝕜}
+    (hb : x₀ < b) (hbf : 0 < slope f x₀ b) (hf : f x₀ = 0) : 0 < f b := by
+  simp_all [slope, hf]
+
+lemma neg_of_slope_pos {𝕜} [LinearOrderedField 𝕜] {f : 𝕜 → 𝕜} {x₀ b : 𝕜}
+    (hb : b < x₀) (hbf : 0 < slope f x₀ b) (hf : f x₀ = 0) : f b < 0 := by
+  rwa [slope_pos_iff_gt, hf] at hbf
+  exact hb
+
+/-- Predict the sign of f when it crosses the x-axis from below. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:49]: I find the "predict" terminology a bit odd. How about:
```suggestion
/-- If the derivative of `f` is positive at a root `x₀` of `f`, then locally the sign of `f x`
matches `x - x₀`. -/
```

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 16]
```diff
@@ -0,0 +1,148 @@
...
+  have h_tendsto := hasDerivAt_iff_tendsto_slope.mp
+    (differentiableAt_of_deriv_ne_zero <| ne_of_gt hf).hasDerivAt
+  filter_upwards [(h_tendsto.eventually <| eventually_gt_nhds hf),
+    self_mem_nhdsWithin] with x hx₀ hx₁
+  rw [mem_compl_iff, mem_singleton_iff, ← Ne.eq_def] at hx₁
+  obtain (hx' | hx') := hx₁.lt_or_lt
+  · rw [sign_neg (neg_of_slope_pos hx' hx₀ hx), sign_neg (sub_neg.mpr hx')]
+  · rw [sign_pos (pos_of_slope_pos hx' hx₀ hx), sign_pos (sub_pos.mpr hx')]
+
+/-- Predict the sign of f when it crosses the x-axis from above. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:63]:
```suggestion
/-- If the derivative of `f` is negative at a root `x₀` of `f`, then locally the sign of `f x`
matches `x₀ - x`. -/
```

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:32]: These still need to go somewhere else. Maybe: `Mathlib.LinearAlgebra.AffineSpace.Ordered`

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 17]
```diff
@@ -0,0 +1,148 @@
...
+    rw [← this]
+    congr
+  have h₂ (x : ℝ) : - sign (-f x) = sign (f x) := neg_eq_iff_eq_neg.mpr <| Right.sign_neg (f x)
+  simp_rw [← h₂, fun x => (neg_sub x x₀).symm, fun x => Right.sign_neg (x - x₀)]
+  simp only [neg_inj]
+  exact eventually_nhdsWithin_sign_eq_of_deriv_pos (by
+    show deriv (-f) x₀ > 0
+    rw [h₀]
+    simp only [Left.neg_pos_iff]
+    exact hf) (by show (-f) x₀ = 0; simp_all)
```
[the remark this answers is not in the document]
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:84]: Nice, thank you. I didn't know about the erasure specification as in `-neg_sub`, that seems useful.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 18]
```diff
@@ -0,0 +1,148 @@
...
+lemma deriv_neg_left_of_sign_deriv {f : ℝ → ℝ} {x₀ : ℝ}
+    (h₀ : ∀ᶠ (x : ℝ) in 𝓝 x₀, sign (deriv f x) = sign (x - x₀)) :
+    ∀ᶠ (b : ℝ) in 𝓝[<] x₀, deriv f b < 0 :=
+  (eventually_nhdsWithin_of_eventually_nhds h₀).mp <|
+   eventually_nhdsWithin_of_forall <| fun x hx₀ hx₁ => by
+    rw [sign_neg <| sub_neg.mpr hx₀] at hx₁
+    simp only [sign, OrderHom.coe_mk] at hx₁
+    split at hx₁
+    · simp only [self_eq_neg_iff, one_ne_zero] at hx₁
+    · split at hx₁ <;> tauto
```
[the remark this answers is not in the document]
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:95]: Nice, hadn't seen that one.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 19]
```diff
@@ -0,0 +1,148 @@
...
+theorem isLocalMax_of_deriv_deriv_neg (hf : deriv (deriv f) x₀ < 0) (hd : deriv f x₀ = 0)
+    (hc : ContinuousAt f x₀) : IsLocalMax f x₀ := by
+  have h := eventually_nhdsWithin_sign_eq_of_deriv_neg hf hd
+  have h₀ := deriv_pos_left_of_sign_deriv h
+  have h₁ := deriv_neg_right_of_sign_deriv h
+  have hf₀ := eventually_sup.mpr ⟨h₀.mono fun x hx => (ne_of_lt hx).symm,
+                                  h₁.mono fun x hx => (ne_of_gt hx).symm⟩
+  have hf : ∀ᶠ (x : ℝ) in 𝓝[≠] x₀, deriv f x ≠ 0 := (nhdsLT_sup_nhdsGT x₀) ▸ hf₀
+  exact isLocalMax_of_deriv hc (hf.mono fun _ => differentiableAt_of_deriv_ne_zero)
+    (h₀.mono fun _ => le_of_lt) (h₁.mono fun _ => le_of_lt)
```
[the remark this answers is not in the document]
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:150]: Thanks!

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 16 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean]: OK great. I was able to make all the changes you recommended.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 20]
```diff
@@ -0,0 +1,97 @@
...
+/-- If the derivative of `f` is negative at a root `x₀` of `f`, then locally the sign of `f x`
+matches `x₀ - x`. -/
+lemma eventually_nhdsWithin_sign_eq_of_deriv_neg (hf : deriv f x₀ < 0) (hx : f x₀ = 0) :
+    ∀ᶠ x in 𝓝 x₀, sign (f x) = sign (x₀ - x) := by
+  simpa [Left.sign_neg, -neg_sub, ← neg_sub x₀] using
+    eventually_nhdsWithin_sign_eq_of_deriv_pos
+        (f := (-f ·)) (x₀ := x₀) (by simpa [deriv.neg]) (by simpa)
+
+lemma deriv_neg_left_of_sign_deriv {f : ℝ → ℝ} {x₀ : ℝ}
+    (h₀ : ∀ᶠ (x : ℝ) in 𝓝 x₀, sign (deriv f x) = sign (x - x₀)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:55]: I think in this and the next three lemmas, you should generalize the hypothesis to:
```suggestion
    (h₀ : ∀ᶠ (x : ℝ) in 𝓝[≠] x₀, sign (deriv f x) = sign (x - x₀)) :
```
which you can easily prove by switching the `filter_upwards` line to:
```lean
  filter_upwards [nhdsLT_le_nhdsNE _ h₀, self_mem_nhdsWithin] with x hx' (hx : x < x₀)
```
or some variant thereof (e.g.,`nhdsGT` and `x₀ < x`).

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 21]
```diff
@@ -0,0 +1,97 @@
...
+lemma deriv_pos_left_of_sign_deriv {f : ℝ → ℝ} {x₀ : ℝ}
+    (h₀ : ∀ᶠ (x : ℝ) in 𝓝 x₀, sign (deriv f x) = sign (x₀ - x)) :
+    ∀ᶠ (b : ℝ) in 𝓝[<] x₀, deriv f b > 0 := by
+  filter_upwards [inter_mem_nhdsWithin _ h₀] with x ⟨(hx : x < x₀), (hx' : sign _ = _)⟩
+  rwa [← sub_pos, ← sign_eq_one_iff, ← hx', sign_eq_one_iff] at hx
+
+/-- The Second-Derivative Test from calculus, minimum version.
+Applies to functions like `x^2 + 1[x ≥ 0]` as well as twice differentiable
+functions. -/
+theorem isLocalMin_of_deriv_deriv_pos (hf : deriv (deriv f) x₀ > 0) (hd : deriv f x₀ = 0)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:81]: Then before you prove the second derivative test, you can prove a variant of the first-derivative test. It is strictly weaker than the version we currently have in Mathlib, but it has fewer hypotheses, and it is exactly the condition you can establish in order to prove the second derivative test. That is, I want to see:
```lean
/-- The First Derivative test with a hypothesis on the sign of the derivative, maximum version. -/
theorem isLocalMax_of_sign_deriv {f : ℝ → ℝ} {x₀ : ℝ} (h : ContinuousAt f x₀)
    (hf : ∀ᶠ x in 𝓝[≠] x₀, sign (deriv f x) = sign (x₀ - x)) :
    IsLocalMax f x₀ := by
  have hl := deriv_pos_left_of_sign_deriv hf
  have hg := deriv_neg_right_of_sign_deriv hf
  replace hf := (nhdsLT_sup_nhdsGT x₀) ▸
    eventually_sup.mpr ⟨hl.mono fun x hx => hx.ne', hg.mono fun x hx => hx.ne⟩
  exact isLocalMax_of_deriv h (hf.mono fun x hx ↦ differentiableAt_of_deriv_ne_zero hx)
    (hl.mono fun _ => le_of_lt) (hg.mono fun _ => le_of_lt)

/-- The First Derivative test with a hypothesis on the sign of the derivative, minimum version. -/
theorem isLocalMin_of_sign_deriv {f : ℝ → ℝ} {x₀ : ℝ} (h : ContinuousAt f x₀)
    (hf : ∀ᶠ x in 𝓝[≠] x₀, sign (deriv f x) = sign (x - x₀)) :
    IsLocalMin f x₀ := by
  refine neg_neg f ▸ (isLocalMax_of_sign_deriv (f := (-f ·)) h.neg ?foo |>.neg)
  simpa [Left.sign_neg, -neg_sub, ← neg_sub _ x₀, deriv.neg]
```

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean [hunk 22]
```diff
@@ -0,0 +1,97 @@
...
+    (hc : ContinuousAt f x₀) : IsLocalMin f x₀ := by
+  have h₀ := eventually_nhdsWithin_sign_eq_of_deriv_pos hf hd
+  have hl := deriv_neg_left_of_sign_deriv h₀
+  have hg := deriv_pos_right_of_sign_deriv h₀
+  have hf₀ := eventually_sup.mpr ⟨hl.mono fun x hx => (ne_of_gt hx).symm,
+                                  hg.mono fun x hx => (ne_of_lt hx).symm⟩
+  have hf := (nhdsLT_sup_nhdsGT x₀) ▸ hf₀
+  exact isLocalMin_of_deriv hc (hf.mono fun x a ↦ differentiableAt_of_deriv_ne_zero a)
+    (hl.mono fun _ => le_of_lt) (hg.mono fun _ => le_of_lt)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/SecondDerivativeTest.lean:90]: The above suggestion simplifies this to:
```suggestion
    (hc : ContinuousAt f x₀) : IsLocalMin f x₀ :=
  isLocalMin_of_sign_deriv hc <| nhdsWithin_le_nhds <|
    eventually_nhdsWithin_sign_eq_of_deriv_pos hf hd
```

**Review by j-loreaux — COMMENTED** [review]
I seem to recall suggesting this variant of the first derivative test at some point, but it seems to have gotten lost, and I only just now remembered it.

With these changes, I think it probably makes sense to merge all of this into the file for the first derivative test. That file would require the new import `Mathlib.LinearAlgebra.AffineSpace.Ordered`, but perhaps that's not too big a deal.

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 21 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean]: Thanks... works!

File: Mathlib/Analysis/Calculus/SecondDerivativeTest.lean (hunk 22 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Analysis/Calculus/SecondDerivativeTest.lean]: Very nice!

**Comment by fpvandoorn** [comment]
Thanks! This took quite a journey, but the final result looks very good and clean to me.

bors merge
